US08202858B2
1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 2-methyl-4-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulene-6-carbonyl)-benzylamide
(4-Aminomethyl-3-methyl-phenyl)-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulen-6-yl)-methanone hydrochloride from Example E119.2 (89 mg, 0.225 mmol) was dissolved in dichloromethane (10 ml) and triethylamine (to pH9) at room temperature. 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic acid (53 mg, 0.25 mmol), DMAP (27 mg, 0.225 mmol) and PyBroP (165 mg, 0.36 mmol) were added and the mixture was heated at reflux for 18 h. The solution was diluted with EtOAc, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 1% 35% ammonia:9% methanol:90% dichloro-methane) to give a white solid identified as the title compound (84 mg, 69%).

reactant | (4-Aminomethyl-3-methyl-phenyl)-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulen-6-yl)-methanone hydrochloride | Cl.NCC1=C(C=C(C=C1)C(=O)N1C2=C(C=3OC(=NC3CC1)C)C=CC=C2)C
reactant | triethylamine | pH9 | C(C)N(CC)CC | C6H15N
reactant | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic acid | 0.25 mmol, 53 mg | CC(CCN1CCC(CC1)C(=O)O)(C)C | C12H23NO2
reactant | PyBroP | 0.36 mmol, 165 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.225 mmol, 27 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 2-methyl-4-(2-methyl-4,5-dihydro-1-oxa-3,6-diaza-benzo[e]azulene-6-carbonyl)-benzylamide | 84 mg, 69% | CC1=C(CNC(=O)C2CCN(CC2)CCC(C)(C)C)C=CC(=C1)C(=O)N1C2=C(C=3OC(=NC3CC1)C)C=CC=C2 | C33H42N4O3
